* source FULL_WAVE_RECTIFIER
D_D1         N00120 N00104 D1N4002 
D_D2         N00116 N00104 D1N4002 
D_D3         0 N00116 D1N4002 
D_D4         0 N00120 D1N4002 
R_R1         0 N00104  1k TC=0,0 
V_V1         N00120 N00116  AC 0
+SIN 0 5 1k 0 0 0
